US08912188B2
A solution of methyl 2-(1-(tert-butoxycarbonyl)-5-methoxy-1H-indol-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (180.0 mg, 0.36 mmol) in 20% TFA/DCM (30 mL) was stirred overnight at room temperature and then quenched by the addition of water (100 ml). The reaction mixture was adjusted to pH 7 with aq. sodium bicarbonate, extracted with chloroform, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by a silica gel column with 0.1%-1% methanol in dichloromethane to afford methyl 3-(isopropyl(methyl)amino)-2-(5-methoxy-1H-indol-2-yl)quinoxaline-6-carboxylate as a light yellow solid (100.0 mg, 69%).

reactant | methyl 2-(1-(tert-butoxycarbonyl)-5-methoxy-1H-indol-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.36 mmol, 180.0 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)OC)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C28H32N4O5
solvent | TFA DCM | 30 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | methyl 3-(isopropyl(methyl)amino)-2-(5-methoxy-1H-indol-2-yl)quinoxaline-6-carboxylate | 100.0 mg, 69% | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1NC2=CC=C(C=C2C1)OC)C | C23H24N4O3
